2151-03-16 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.7
F - [**2151-3-15**] 11:00 AM
   - In afternoon, attempted wean to 40%. Was satting ok in low-mid 90s),
   then with upright SBT 0/8-> pt desatted to 80s, ABG pH 7.35/64/77, was
   increased back to FiO2 50% b/c stayed in 80s when was back on 40%,
   [**1-20**].
   - Overnight pt appeared to be more awake, talking and expelling air
   around ETT with coughing. Would desat to 80s during this. Fentanyl
   increased from 5->->->150. Was switched to CMV/AC, 450x14. RT to
   attempt to switch back to PSV this am. Fentanyl back down to 50mcg/hr.
   - Tap of R knee-> dry
   - TTE-> EF 50%
   - PM Na still 153, increased D5W to 150/hr
   - Continued to spike in afternoon, Tmax 102.7, re-cultured
   - Pulm: BAL likely to be low-yield; consider lines, may improve after
   extub.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-13**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-3-14**] 08:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-3-16**] 03:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-16**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.2
C (100.8
   HR: 91 (63 - 92) bpm
   BP: 129/76(92) {99/49(64) - 133/76(226)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  5,579 mL
                                                                  1,669 mL
   PO:
             TF:
                                                                  1,211 mL
                                                                    336 mL
   IVF:
                                                                  2,538 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    685 mL
   Urine:
                                                                  2,305 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,274 mL
                                                                    984 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 590 (458 - 692) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 42
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: 7.34/65/86.[**Numeric Identifier **]/34/6
   Ve: 6.7 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   458 K/uL
   11.3 g/dL
   101 mg/dL
   1.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   67 mg/dL
   109 mEq/L
   148 mEq/L
   35.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2151-3-14**]  05:06 PM
                             [**2151-3-14**]  05:27 PM
                             [**2151-3-14**]  08:05 PM
                             [**2151-3-15**]  04:16 AM
                             [**2151-3-15**]  04:33 AM
                             [**2151-3-15**]  03:21 PM
                             [**2151-3-15**]  04:12 PM
                             [**2151-3-15**]  05:55 PM
                             [**2151-3-16**]  03:55 AM
                             [**2151-3-16**]  04:07 AM
   WBC
   12.3
   12.2
   Hct
   35.4
   35.1
   Plt
   409
   458
   Cr
   2.1
   1.9
   1.7
   1.6
   TCO2
   36
   35
   35
   34
   37
   37
   Glucose
   110
   115
   110
   101
   Other labs: PT / PTT / INR:17.9/34.2/1.6, CK / CKMB /
   Troponin-T:4046/9/0.30, ALT / AST:159/84, Alk Phos / T Bili:48/0.7,
   Amylase / Lipase:103/200, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.1 %, Mono:3.2 %, Eos:1.3 %, D-dimer:[**Numeric Identifier 3150**] ng/mL,
   Fibrinogen:679 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:376
   IU/L, Ca++:8.2 mg/dL, Mg++:2.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   39M w/ PMhx of Ebstein's anomaly, s/p tricuspid valve reconstruction,
   right and left sided systolic congestive heart failure, presenting with
   unstable ventricular tachycardia,  now intubated, with hypoxic and
   hypercarbic respiratory failure, persistent fevers.
   # Respiratory Failure: Mixed hypoxemia and hypercarbia.  Pt continues
   to wean slowly, became hypercarbic and hypoxemic during SBT yesterday
   at 0/8, however patient was unable to stay upright and also ETT likely
   too small which is making wean more difficult.  Pulm following and
   recommend extubation today with anesthesia at bedside given was
   difficult intubation.
   - Cont to wean Fi02 and PEEP as tolerated.  Goal Pa02>60
   - Cont. pressure support
   - Extubation this afternoon with pulm and anesthesia at bedside
   - Consider bronch prior to extubation.
   - cont. nebs
   - If fails extubation will discuss trach. F/u pulm recs.
   - raise head of bed
   - f/u am CXR for tube position.
   # Ventricular Tachycardia: Likely result of scarring from ebstein
   anomaly/repairs. Suppressed ectopy w Amiodarone. Now on Metoprolol.
   - amiodarone decreased to 200mg tid [**3-15**] given received 10gm loading
   - titrate up BB for HR control, increased to 50mg [**Hospital1 **].
    -added Lisionpril 2.5mg PO daily
   - likely will need EP study and possible ablation in future.  Will
   likely need ICD.
   # BP: Off pressors, now elevated BP while weaning sedation.  Added back
   on BB.
   - MAP goal >65,
   -  Wean PEEP and sedative as tolerated.
   - added on low dose ACEI
   # Fevers: Fevers to 103-104 since admission, initially considered to be
   due to aspiration PNA.  However has completed course of abx with no
   sputum production and improving pulmonary function.  Chest CT did not
   show evidence for ongoing infection. Ddx at this point includes occult
   infection (abscess, acalculous cholecystitis, sinusitis), gout,
   thermoregulatory dysfunciton after cardiac arrest/non-exposure heat
   stroke, drug fever, thyroid storm, adrenal insufficiency (although less
   likely now that not hypotensive). Not exposed to any culprit meds for
   NMS.  All culture data negative thus far.  Now with increasing
   secretions.
    Continued to spike fevers.  Still on ATC tylenol, aspirin and cooling
   blanket.  Fem line removed and sent for culture with no growth.
   Possible drug fever given persistent fever with no pos. cx data. C.
   diff negative. CT with PO contrast did not show clear source of fevers.
   CT sinus did have partial opacifications of bilaterally mastoids. CVL
   placed [**3-10**].
   - d/c abx per ID.
   - ID following, appreciate their recs
   - Check mycolytic blood cultures, pending
   - blood cultures NGTD, urine small growth GPC, sputum is oral flora.
   Continue to monitor.
   - Repeat sputum given inc. secretions
   - Tylenol 650 qid standing for fever, standing ASA 325 PO qid
   - [**Last Name (un) **] stim test normal
   - follow LFTs, CK, TSH normal
   # Hypernatremia -  likely in setting of diuresis. Free water deficit
   initially 8L, improving with inc. free water flushes and D5.
   -hold lasix gtt
   -D5W continuous + free water flushes for repletion
   - [**Hospital1 **] lytes
   # Chronic Systolic heart failure - Congestive Heart Failure: Has right
   and left sided heart failure, s/p tricuspid reconstruction and ASD
   repair.
   - hold digoxin
   - TEE and TTE
 showed poor systolic function. Done just after arrest.
   Repeat yesterday showed improved systolic function with EF 50%
   - hold diuresis
   - appreciate Children
s congenital specialist input
   - Cr improving, add back on low dose ACEI
   # ARF: ATN, creatinine increased in setting of continued diuresis.  Cr
   much improved after holding diuresis.
   - d/ced lasix gtt
   - monitor UOP
   # Hypernatremia sodium of 155 from 148, free water defict of 7L, likely
   from combination of fevers and diuresis
   - d
ed lasix gtt
   - start D5W at 100ml/hr- then will reevaluate Na this PM
   # Bowel motility/nutrition
 Monitor for improvement after lightening
   fentanyl
   - Bowel regimen on hold given now with diarrhea
   - Continue TF
   - f/u any nutrition recs
   # Transaminitis: Multifactorial from shock liver, CHF and amiodarone.
   Improving
   - monitor LFTs given amio restarted
   #Gout: R knee swollen, concerning for gout flare, joint tapped, no
   crystals visualized.  Rheum following.  Holding allopurinol and
   colchicines given ARF
   -re-tap knee yesterday without fluid.
   - Cont. to monitor.
   FEN:  agressively replete lytes, treat hypernatremia with free water
   ACCESS:  Fem line d/c
d., new IJ placed [**3-10**].  Fever curve decreasing,
   will monitor femoral blood cultures.
   PROPHYLAXIS:
   -DVT ppx with pneumoboots, sub q heparin
   CODE: Full
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-16**] 04:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-8**] 12:00 AM
   Multi Lumen - [**2151-3-10**] 03:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Plan for bronchoscopy and hope for extubation later today.  Have
   reviewed work-up to date for unexplained fever. Patient is acutely ill
   but does not appear toxic. Drug fever still a likely possibility given
   negative work-up.  Will hold antibiotics.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   critical care for ventilator management/respiratory failure.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-3-16**] 12:19 ------

2151-03-17 06:19:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: VF arrest
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2151-3-16**] 10:01 AM
 INVASIVE VENTILATION - STOP [**2151-3-16**] 01:20 PM
 ARTERIAL LINE - STOP [**2151-3-17**] 04:50 AM
 FEVER - 102.8
F - [**2151-3-16**] 09:47 AM
   .
   Patient was extubated yesterday with anesthesia and pulmonary present.
   Post extubation gas showed adequate oxygenation. Put patient in for
   speech and swallow evaluation given that NG tube removed and has been
   intubated for over a week.  Patient interactive and responsive. Fever
   curve treding down.  PM lytes showed increased Na to 149 so turned up
   D5W to 200 cc/hour. Now increasingly volume up but also persistently
   hypernatremic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-3-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-3-16**] 08:20 AM
   Midazolam (Versed) - [**2151-3-16**] 10:55 AM
   Heparin Sodium (Prophylaxis) - [**2151-3-16**] 04:03 PM
   Other medications:
    No change to PMHX
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-17**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.2
C (99
   HR: 58 (55 - 100) bpm
   BP: 99/66(70) {92/48(61) - 103/66(70)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                  5,403 mL
                                                                  1,455 mL
   PO:
                                                                    120 mL
                                                                    180 mL
   TF:
                                                                    546 mL
   IVF:
                                                                  3,907 mL
                                                                  1,275 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    675 mL
   Urine:
                                                                  2,360 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,043 mL
                                                                    780 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (90 - 893) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: 7.38/54/132/34/5
   Ve: 10.1 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) distant heart
   sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   PULM: bilat crackles with scattered wheezes
   Abdominal: Non-tender, Bowel sounds present, Distended, Obese, gas on
   percussion
   Skin:  Warm, Rash: lower extremity mottling
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   405 K/uL
   105 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.1 mEq/L
   60 mg/dL
   106 mEq/L
   146 mEq/L
   34.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2151-3-15**]  04:33 AM
                             [**2151-3-15**]  03:21 PM
                             [**2151-3-15**]  04:12 PM
                             [**2151-3-15**]  05:55 PM
                             [**2151-3-16**]  03:55 AM
                             [**2151-3-16**]  04:07 AM
                             [**2151-3-16**]  12:38 PM
                             [**2151-3-16**]  02:35 PM
                             [**2151-3-16**]  02:43 PM
                             [**2151-3-17**]  04:30 AM
   WBC
   12.2
   10.9
   Hct
   35.1
   34.2
   Plt
   458
   405
   Cr
   1.7
   1.6
   1.7
   1.5
   TCO2
   35
   34
   37
   37
   34
   33
   Glucose
   110
   101
   113
   105
   Other labs: PT / PTT / INR:17.9/34.2/1.6, CK / CKMB /
   Troponin-T:4046/9/0.30, ALT / AST:119/67, Alk Phos / T Bili:46/0.9,
   Amylase / Lipase:103/200, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.1 %, Mono:3.2 %, Eos:1.3 %, D-dimer:[**Numeric Identifier 3150**] ng/mL,
   Fibrinogen:679 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:331
   IU/L, Ca++:8.0 mg/dL, Mg++:3.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   39M w/ PMhx of Ebstein's anomaly, s/p tricuspid valve reconstruction,
   right and left sided systolic congestive heart failure, presenting with
   unstable ventricular tachycardia, now extubated s/p a prolonged
   intubation for hypoxic and hypercarbic respiratory failure, persistent
   fevers now trending down and persistent hypernatremia.
   # Respiratory Failure now s/p extubation: Mixed hypoxemia and
   hypercarbia.  Pt was extubated yesterday without complication.  MS
   today alert and interactive.  Sats stable on 4L, high flow.  Likely a
   component of OSA contributing to patient
s ongoing hypercarbia.
   - CPAP at night
   - cont. nebs
   - raise head of bed to relieve pressure from abdomen
   - Wean O2 as tolerated to maintain sats >92%
   - f/u am CXR
   # Ventricular Tachycardia: Likely result of scarring from ebstein
   anomaly/repairs. Suppressed ectopy w Amiodarone. Now on Metoprolol.
   - amiodarone decreased to 200mg tid [**3-15**] given received 10gm loading
   - [**Month (only) 202**]. BB to 25mg tid given bradycardia
    -Cont. Lisinopril 2.5mg PO daily
   - likely will need EP study and possible ablation in future.  Will
   likely need ICD. Will discuss timing with EP today
   # BP: Off pressors, now elevated BP while weaning sedation.  Added back
   on BB.
   - MAP goal >65,
   -  Wean PEEP and sedative as tolerated.
   - added on low dose ACEI
   # Fevers: Fevers to 103-104 since admission, initially considered to be
   due to aspiration PNA.  However has completed course of abx with no
   sputum production and improving pulmonary function.  Chest CT did not
   show evidence for ongoing infection. Ddx at this point includes occult
   infection (abscess, acalculous cholecystitis, sinusitis), gout,
   thermoregulatory dysfunciton after cardiac arrest/non-exposure heat
   stroke, drug fever, thyroid storm, adrenal insufficiency (although less
   likely now that not hypotensive). Not exposed to any culprit meds for
   NMS.  All culture data negative thus far.  Now with increasing
   secretions.
    Continued to spike fevers.  Still on ATC tylenol, aspirin and cooling
   blanket.  Fem line removed and sent for culture with no growth.
   Possible drug fever given persistent fever with no pos. cx data. C.
   diff negative. CT with PO contrast did not show clear source of fevers.
   CT sinus did have partial opacifications of bilaterally mastoids. CVL
   placed [**3-10**].  Fevers now resolving after extubation.
   - ID following, appreciate their recs
   - f/u mycolytic blood cultures, pending
   - blood cultures NGTD, urine small growth GPC, sputum is oral flora.
   Continue to monitor.
   - Repeat sputum pending given inc. secretions
   - Tylenol prn now given fevers resolving, d/c standing ASA
   - [**Last Name (un) **] stim test normal
   - follow LFTs, CK, TSH normal
   # Hypernatremia -  likely in setting of diuresis and insensible losses
   in setting of persistant fevers. Free water deficit initially 8L,
   improving with inc. free water flushes and D5.   Na today improved to
   146.
   -holding lasix
   -D5W continuous + free water flushes for repletion
   - [**Hospital1 **] lytes
   # Chronic Systolic heart failure - Congestive Heart Failure: Has right
   and left sided heart failure, s/p tricuspid reconstruction and ASD
   repair.  TTE peri-arrest showed poor systolic function.  Repeat on [**3-15**]
   showed improved systolic function with EF 50%
   - holding digoxin
   - appreciate Children
s congenital specialist input
   - Cr improving, add back on low dose ACEI
   - Monitor I/O
   # ARF: due to ATN, Cr continues to improve daily.
   - d/ced lasix gtt
   - monitor UOP
   - Cont. to follow
   # Bowel motility/nutrition
 Now s/p extubation, moving bowels
   - Speech and swallow today
   - ADAT once cleared by S&S
   - f/u any nutrition recs
   # Transaminitis: Multifactorial from shock liver, CHF and amiodarone.
   Improving
   - monitor LFTs given amio restarted
   #Gout: R knee swollen, concerning for gout flare, joint tapped, no
   crystals visualized.  Rheum following.  Holding allopurinol and
   colchicines given ARF
   - Cont. to monitor.
   FEN:  agressively replete lytes, treat hypernatremia with free water
   ACCESS:  Fem line d/c
d., new IJ placed [**3-10**].  Fever curve decreasing,
   will monitor femoral blood cultures.
   PROPHYLAXIS:
   -DVT ppx with pneumoboots, sub q heparin
   CODE: Full
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-3-10**] 03:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Doing well post extubation. Also now afebrile. Continue management for
   chronic hypoventilation syndrome. Will review with EP for continuation
   of amiodarone given young age and baseline pulmonary disease.
   Above discussed extensively with patient.
   Total time spent on patient care: 25 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-3-17**] 15:45 ------